US04666504
1-(3-Bromophenyl)-4-carboxy-5-pyrazolecarboxamide.
A 14 g. portion of ethyl 1-(3-bromophenyl)-5-cyano-4-pyrazolecarboxylate was hydrolyzed by stirring under reflux in 200 ml. of ethanol with 6 g. of potassium hydroxide for 2 hours. The mixture was then poured over ice, acidified and filtered, and the solids were crystallized from ethanol/water and dried at 168° to obtain 10 g. of the desired product, m.p. 215°-217° dec. The product was identified by NMR analysis in CDCl3 /DMSOd6. δ7.06 (s,1), carboxamide; 7.30-7.64 (m,4), aromatic; 8.08 (s,1), pyrazole; 9.10 (s,1), carboxamide.

reactant | ethyl 1-(3-bromophenyl)-5-cyano-4-pyrazolecarboxylate | BrC=1C=C(C=CC1)N1N=CC(=C1C#N)C(=O)OCC | C13H10BrN3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Bromophenyl)-4-carboxy-5-pyrazolecarboxamide | BrC=1C=C(C=CC1)N1N=CC(=C1C(=O)N)C(=O)O | C11H8BrN3O3
